US07091214B2
A solution of tert-butyl {4-[4-amino-2-propyl-7-(pyridin-3-yl)-1H-imidazol[4,5-c]quinolin-1-yl]butyl}carbamate (41.92 g, 88.32 mmol) in concentrated hydrochloric acid (210 mL) was stirred for ten minutes, and 50% aqueous sodium hydroxide was added to adjust the solution to pH 14. Cloroform (2.0 L) and a mixture of saturated aqueous sodium bicarbonate and 1% aqueous sodium carbonate (300 mL) were added. The organic layer was separated, dried over sodium sulfate, and concentrated under reduced pressure to provide a yellow solid. The aqueous phase was treated with sodium chloride and chloroform (400 mL), and the mixture was stirred overnight. The organic layer was separated, dried over sodium sulfate, and concentrated under reduced pressure to provide a yellow solid. The two solids were combined to yield 28.77 g of 1-(4-aminobutyl)-2-propyl-7-(pyridin-3-yl)-1H-imidazo[4,5-c]quinolin-4-amine as a light yellow solid.

reactant | tert-butyl {4-[4-amino-2-propyl-7-(pyridin-3-yl)-1H-imidazol[4,5-c]quinolin-1-yl]butyl}carbamate | 88.32 mmol, 41.92 g | NC1=NC=2C=C(C=CC2C2=C1N=C(N2CCCCNC(OC(C)(C)C)=O)CCC)C=2C=NC=CC2 | C27H34N6O2
reactant | sodium hydroxide | [OH-].[Na+]
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | sodium carbonate | 300 mL | C([O-])([O-])=O.[Na+].[Na+]
reactant | sodium chloride | [Cl-].[Na+]
solvent | hydrochloric acid | 210 mL | Cl | ClH
solvent | chloroform | 400 mL | C(Cl)(Cl)Cl | CHCl3
solvent | Cloroform | 2.0 L | C(Cl)(Cl)Cl | CHCl3
product | 1-(4-aminobutyl)-2-propyl-7-(pyridin-3-yl)-1H-imidazo[4,5-c]quinolin-4-amine | 28.77 g | NCCCCN1C(=NC=2C(=NC=3C=C(C=CC3C21)C=2C=NC=CC2)N)CCC | C22H26N6
